US08426420B2
viii) 4-[(S)-2-({5-[2-((S)-2-Benzyloxycarbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-tert-butoxycarbonyl-butyryl]-piperazine-1-carboxylic acid butyl ester
To a solution of 2.50 g 4-{(S)-4-tert-butoxycarbonyl-2-[(5-carboxymethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester in 30 ml DMF were added 621 mg HOBt, 1.3 ml DIPEA, 778 mg EDC and 981 mg L-proline benzyl ester hydrochloride. After stirring for 12 h the solvent was evaporated, the residue dissolved in ethyl acetate and subsequently extracted with aqueous LiCl (4% w/w) and aqueous NaHCO3. The organic layer was dried over MgSO4 and the solvent was removed under reduced pressure. The crude product thus obtained was used in the subsequent reaction.

reactant | 4-{(S)-4-tert-butoxycarbonyl-2-[(5-carboxymethoxy-1-phenyl-1H-pyrazole-3-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester | 2.50 g | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)O)C1=CC=CC=C1)=O | C30H41N5O9
reactant | HOBt | 621 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.3 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | L-proline benzyl ester hydrochloride | 981 mg | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | EDC | 778 mg
product | 4-[(S)-2-({5-[2-((S)-2-Benzyloxycarbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-tert-butoxycarbonyl-butyryl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1)=O | C42H54N6O10
